### PR TITLE
Updated gates

### PR DESCRIPTION
**Pull request by Eagle941**
# Summary

# Details

# Checklist

- [ ] Code is formatted akin to the other code in the repo.
- [ ] Documentation has been updated if necessary.

### CODE REVIEW

File: ProvenZk/Gates.lean [hunk 1]
```diff
@@ -4,34 +4,112 @@ import ProvenZk.Binary
...
-  (ZMod.val a > ZMod.val b ∧ out = 1)
-def is_zero (a out: ZMod N): Prop := (a = 0 ∧ out = 1) ∨ (a != 0 ∧ out = 0)
+def select (b i1 i2 out : ZMod N): Prop := is_bool b ∧ out = i2 - b*(i2-i1)
+def lookup (b0 b1 i0 i1 i2 i3 out : ZMod N): Prop :=
+  is_bool b0 ∧ is_bool b1 ∧
+  out = (i2 - i0) * b1 + i0 + (((i3 - i2 - i1 + i0) * b1 + i1 - i0) * b0)
+
+-- In gnark 8 the number is decomposed in a binary vector with the length of the field order
+-- however this doesn't guarantee that the number is unique.
+def cmp_8 (a b out : ZMod N): Prop :=
```
Comment (kustosz) [inline ProvenZk/Gates.lean:29]: these definitions are weird – what's the point of binary decompositions, if it isn't used in the actual comparison. We either have to make this mirror Gnark's logic, or restore original definitions

File: ProvenZk/Binary.lean [hunk 2]
```diff
@@ -107,6 +107,10 @@ lemma is_vector_binary_iff_exists_bool_vec {N n : ℕ} {v : Vector (ZMod N) n}:
       simp [Vector.toList, htl]
       rfl
 
+def recover_binary_nat {d} (rep : Vector Bool d): Nat := match d with
```
Comment (kustosz) [inline ProvenZk/Binary.lean:110]: I removed it because `Fin.ofBitsLE` does the same thing

File: ProvenZk/Binary.lean [hunk 3]
```diff
@@ -115,6 +119,26 @@ protected theorem Nat.add_lt_add_of_le_of_lt {a b c d : Nat} (hle : a ≤ b) (hl
...
+ | 0 => false
+ | 1 => true
+ | x + 2 => False.elim (by
+    have := Nat.mod_lt inp (y := 2)
+    rw [h] at this
+    simp at this
+    contradiction
+ )
+
+def nat_to_bits_le_full_n (l : Nat): Nat → Vector Bool l := match l with
```
Comment (kustosz) [inline ProvenZk/Binary.lean:134]: Same as `@Fin.toBitsLE l` – remove here

**Review by kustosz — CHANGES_REQUESTED** [review]

File: ProvenZk/Gates.lean [hunk 4]
```diff
@@ -4,34 +4,108 @@ import ProvenZk.Binary
 
 open BigOperators
 
-namespace Gates
+namespace GatesDef
 variable {N : Nat}
-def is_bool (a : ZMod N): Prop := a = 0 ∨ a = 1
+-- variable [Fact (Nat.Prime N)]
```
Comment (kustosz) [inline ProvenZk/Gates.lean:9]: remove comment

File: ProvenZk/Gates.lean [hunk 5]
```diff
@@ -4,34 +4,108 @@ import ProvenZk.Binary
...
 def add (a b : ZMod N): ZMod N := a + b
 def mul_acc (a b c : ZMod N): ZMod N := a + (b * c)
 def neg (a : ZMod N): ZMod N := a * (-1)
 def sub (a b : ZMod N): ZMod N := a - b
 def mul (a b : ZMod N): ZMod N := a * b
-def div_unchecked [Fact (Nat.Prime N)] (a b out : ZMod N): Prop := (b ≠ 0 ∧ out = a * (1 / b)) ∨ (a = 0 ∧ b = 0 ∧ out = 0)
-def div [Fact (Nat.Prime N)] (a b out : ZMod N): Prop := b ≠ 0 ∧ out = a * (1 / b)
-def inv [Fact (Nat.Prime N)] (a out : ZMod N): Prop := a ≠ 0 ∧ out = 1 / a
-def xor (a b out : ZMod N): Prop := is_bool a ∧ is_bool b ∧ out = a*(1-2*b)+b
+def div_unchecked [Fact (Nat.Prime N)] (a b out : ZMod N): Prop := (b ≠ 0 ∧ out*b = a) ∨ (a = 0 ∧ b = 0 ∧ out = 0)
```
Comment (kustosz) [inline ProvenZk/Gates.lean:16]: get rid of prime assumption

File: ProvenZk/Gates.lean [hunk 6]
```diff
@@ -4,34 +4,108 @@ import ProvenZk.Binary
...
+def div [Fact (Nat.Prime N)] (a b out : ZMod N): Prop := b ≠ 0 ∧ out*b = a
```
Comment (kustosz) [inline ProvenZk/Gates.lean:17]: also here no need for prime assumption

File: ProvenZk/Gates.lean [hunk 7]
```diff
@@ -4,34 +4,108 @@ import ProvenZk.Binary
...
+def lookup (b0 b1 i0 i1 i2 i3 out : ZMod N): Prop :=
+  is_bool b0 ∧ is_bool b1 ∧
+  out = (i2 - i0) * b1 + i0 + (((i3 - i2 - i1 + i0) * b1 + i1 - i0) * b0)
+
+-- In gnark 8 the number is decomposed in a binary vector with the length of the field order
+-- however this doesn't guarantee that the number is unique.
+def cmp_8 (a b out : ZMod N): Prop :=
+  ∃z w: Fin (binary_length N), z.val % N = a.val ∧ w.val % N = b.val ∧
+  ((a = b ∧ out = 0) ∨
+  (a.val < b.val ∧ out = -1) ∨
```
Comment (kustosz) [inline ProvenZk/Gates.lean:32]: these comparisons should use `z` and `w` now – that's the nature of the gnark 8 bug

File: ProvenZk/Gates.lean [hunk 8]
```diff
@@ -4,34 +4,108 @@ import ProvenZk.Binary
...
+  (a.val > b.val ∧ out = 1))
+
+-- In gnark 9 the number is reduced to the smallest representation, ensuring it is unique.
+def cmp_9 (a b out : ZMod N): Prop :=
+  ∃z w: Fin (binary_length N), z.val = a.val ∧ w.val = b.val ∧
```
Comment (kustosz) [inline ProvenZk/Gates.lean:37]: and here you don't need z and w – it's correct now, so just encode the comparison of a.val and b.val

File: ProvenZk/Gates.lean [hunk 9]
```diff
@@ -4,34 +4,108 @@ import ProvenZk.Binary
...
+  lookup : α → α → α → α → α → α → α → Prop
+  cmp : α → α → α → Prop
+  is_zero : α → α → Prop
+  eq : α → α → Prop
+  ne : α → α → Prop
+  le : α → α → Prop
+  to_binary : α → (n : Nat) → Vector α n → Prop
+  from_binary : Vector α d → α → Prop
+
+def GatesGnark_8 (N : Nat) [Fact (Nat.Prime N)] : Gates_base (ZMod N) := {
```
Comment (kustosz) [inline ProvenZk/Gates.lean:83]: Weird casing – why not `GatesGnark8`?

File: ProvenZk/Gates.lean [hunk 10]
```diff
@@ -4,34 +4,108 @@ import ProvenZk.Binary
...
+  cmp := GatesDef.cmp_8,
+  is_zero := GatesDef.is_zero,
+  eq := GatesDef.eq,
+  ne := GatesDef.ne,
+  le := GatesDef.le_8,
+  to_binary := GatesDef.to_binary,
+  from_binary := GatesDef.from_binary
+}
+
+def GatesGnark_9 (N : Nat) [Fact (Nat.Prime N)] : Gates_base (ZMod N) := {
```
Comment (kustosz) [inline ProvenZk/Gates.lean:107]: same casing coment

File: ProvenZk/Gates.lean [hunk 11]
```diff
@@ -4,34 +4,106 @@ import ProvenZk.Binary
...
 def eq (a b : ZMod N): Prop := a = b
 def ne (a b : ZMod N): Prop := a ≠ b
-def le (a b : ZMod N): Prop := ZMod.val a <= ZMod.val b
-def to_binary (a : ZMod N) (n : Nat) (out : Vector (ZMod N) n): Prop := recover_binary_zmod' out = a ∧ is_vector_binary out
-def from_binary {d} (a : Vector (ZMod N) d) (out : ZMod N): Prop := (recover_binary_zmod' a : ZMod N) = out
-end Gates
+
+def le_8 (a b : ZMod N): Prop :=
+  ∃z w: Fin (binary_length N), z.val % N = a.val ∧ w.val % N = b.val ∧
+  a.val <= b.val
```
Comment (kustosz) [inline ProvenZk/Gates.lean:46]: this should also use `z` and `w`, same as cmp_8

**Review by kustosz — APPROVED** [review]
One more thing to fix, but approving!
